US06506772B1
Cyclopentanecarboxylic Acid [5-Amino-2-(5-methyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-amide
The title compound was prepared in accordance with the general method of example 365 from cyclopentanecarboxylic acid (2,6-diamino-pyridin-4-ylmethyl)-amide, o-mesitylene-sulfonylhydroxylamine, and 5-methyl-2-furaldehyde. The purification was performed with column chromatography on silica eluting with dichloromethane/ethylacetate 1:2.

reactant | cyclopentanecarboxylic acid (2,6-diamino-pyridin-4-ylmethyl)-amide | NC1=NC(=CC(=C1)CNC(=O)C1CCCC1)N | C12H18N4O
reactant | o-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | 5-methyl-2-furaldehyde | CC1=CC=C(O1)C=O | C6H6O2
product | Cyclopentanecarboxylic Acid [5-Amino-2-(5-methyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-amide | Yield: 27% | NC1=CC(=CC=2N1N=C(N2)C=2OC(=CC2)C)CNC(=O)C2CCCC2 | C18H21N5O2
